US08071803B2
1-(2-Ethyl-butyl)-cyclohexanecarboxylic acid ethyl ester (2.0 g, 8.32 mmol) was added dropwise under stirring to a solution of KOtBu (3.735 g, 33.3 mmol) in THF (15 mL) containing a small amount of water (225 mg, 12.5 mmol). The mixture was stirred 20 h at 54° C., cooled to room temperature, slowly poured onto a mixture of ice and 4N H2SO4 and extracted with DCM (2×150 mL) after adjusting to pH 1. The organic phases were washed with diluted aq. NaCl (100 mL), combined, dried over sodium sulfate and concentrated to afford 1.748 g (99%) 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid, purity 95.2% (GC with internal standard).

reactant | 1-(2-Ethyl-butyl)-cyclohexanecarboxylic acid ethyl ester | 8.32 mmol, 2.0 g | C(C)OC(=O)C1(CCCCC1)CC(CC)CC | C15H28O2
reactant | KOtBu | 33.3 mmol, 3.735 g | CC(C)(C)[O-].[K+]
reactant | water | 12.5 mmol, 225 mg | O | H2O
reactant | H2SO4 | 4N | OS(=O)(=O)O | H2O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid | 1.748 g, 99% | C(C)C(CC1(CCCCC1)C(=O)O)CC | C13H24O2
